* source BANDPASSFILTER_IND
R_R_Load1         N01923 0  1k TC=0,0 
V_V2         N01893 0 DC 0Vdc AC 1Vac 
R_R2         N01893 N01873  200 TC=0,0 
L_L1         N01873 0  100m  
L_L2         N01873 N01923  3  
