* source BOOST_CONVERTER
L_L3         VIN1 N9022867  10uH  
D_D3         N9022867 VOUT1 MUR150 
M_M2         N9022867 N9025597 0 0 IRFZ34
R_R1         N90229150 N9025597  33 TC=0,0 
V_V4         N90229150 0  
+PULSE -1 8 0 1n 1n 25u 50u
V_Vs1         VIN1 0 40Vdc
C_C3         VOUT1 0  50u IC=70 TC=0,0 
R_R_Load1         VOUT1 0  10 TC=0,0 
