* source BUCK_BOOST_CONVERTER
V_Vs2         VIN 0 100Vdc
D_D4         VOUT N9027880 MUR150 
R_R1         N9030207 N9030239  33 TC=0,0 
L_L4         N9027880 0  500u  
C_C4         VOUT 0  50u IC=70 TC=0,0 
R_R_Load2         VOUT 0  10 TC=0,0 
V_V5         N9030239 N9027880  
+PULSE -1 8 0 1n 1n 25u 100u
M_M3         VIN N9030207 N9027880 N9027880 IRFZ34
