* source BUCK_CONVERTER
R_R1         N9003868 N9001912  33 TC=0,0 
L_L2         N9001238 VOUT  500u  
C_C2         VOUT 0  50u IC=1m TC=0,0 
D_D2         0 N9001238 MUR150 
R_R_Load         VOUT 0  10 TC=0,0 
V_Vs         VIN 0 100Vdc
V_V3         N9001912 N9001238  
+PULSE -1 8 0 1n 1n 25u 50u
M_M1         VIN N9003868 N9001238 N9001238 IRFZ34
