* source DOUBLESWITCH_FORWARDCONVERTER
R_R2         N9055899 N9045346  33 TC=0,0 
V_Vs2         VIN 0 100Vdc
D_D6         N9041515 VIN MUR150 
D_D7         0 N9041527 MUR150 
L_L1         N9041527 N9041515  500uH  
V_V6         N9055899 N9041527  
+PULSE -1 8 0 1n 1n 25u 100u
L_L2         N9041553 0  250uH  
M_M3         N9041515 N90414271 0 0 IRFZ34
D_D5         0 N9041697 MUR150 
R_R1         N90414271 N9041509  33 TC=0,0 
M_M4         VIN N9045346 N9041527 N9041527 IRFZ34
L_L3         N9041697 VOUT  10u  
V_V5         N9041509 0  
+PULSE -1 8 0 1n 1n 25u 100u
Kn_K1         L_L1 L_L2     1
D_D4         N9041553 N9041697 MUR150 
C_C4         VOUT 0  10u IC=75 TC=0,0 
R_R_Load2         VOUT 0  15 TC=0,0 
