* source FLYBACK_CONVERTER
L_L2         0 N9030687  250uH  
C_C4         VOUT 0  50u IC=45 TC=0,0 
V_Vs2         VIN 0 100Vdc
M_M3         N9030269 N9031357 0 0 IRFZ34
Kn_K1         L_L1 L_L2     1
R_R1         N9031357 N9030245  33 TC=0,0 
D_D4         N9030687 VOUT MUR150 
L_L1         VIN N9030269  500uH  
V_V5         N9030245 0  
+PULSE -1 8 0 1n 1n 25u 100u
R_R_Load2         VOUT 0  15 TC=0,0 
