* source HIGHPASSFILTERS
C_C1         N00330 N00316  1m  TC=0,0 
R_R_Load         N00316 0  1 TC=0,0 
V_V1         N00330 0 DC 0Vdc AC 1Vac 
R_R1         N00930 N00836  100 TC=0,0 
L_L1         N00836 0  100m  
R_R_Load1         N00836 0  1k TC=0,0 
V_V2         N00930 0 DC 0Vdc AC 1Vac 
