* source L_R_SHIFTREGISTER
X_U12         LEFT/RIGHT Q1 N14999 $G_DPWR $G_DGND NAN2
X_U4         N18192 Q2 N14511 $G_DPWR $G_DGND NAN2
X_U13         DATAIN N18192 N14995 $G_DPWR $G_DGND NAN2
U_left/right         STIM(1,1)
+ $G_DPWR $G_DGND
+ LEFT/RIGHT 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 85us 1  
X_U15         LEFT/RIGHT N18192  $G_DPWR $G_DGND INV
X_U5         N14511 N14529 N15021 $G_DPWR $G_DGND NAN2
X_U14         N14995 N14999 N15201 $G_DPWR $G_DGND NAN2
U_preset         STIM(1,1)
+ $G_DPWR $G_DGND
+ PRESET 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
X_U9         LEFT/RIGHT Q2 N14849 $G_DPWR $G_DGND NAN2
X_U1A         CLEAR N15021 CLK PRESET Q3 M_UN0001 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10         N18192 Q0 N14845 $G_DPWR $G_DGND NAN2
X_U1B         CLEAR N15101 CLK PRESET Q2 M_UN0002 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11         N14845 N14849 N15133 $G_DPWR $G_DGND NAN2
X_U2A         CLEAR N15133 CLK PRESET Q1 M_UN0003 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         CLEAR N15201 CLK PRESET Q0 M_UN0004 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         LEFT/RIGHT Q3 N14703 $G_DPWR $G_DGND NAN2
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND M_UN0005 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
X_U7         N18192 Q1 N14699 $G_DPWR $G_DGND NAN2
U_clear         STIM(1,1)
+ $G_DPWR $G_DGND
+ CLEAR 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 20us 1  
U_datain         STIM(1,1)
+ $G_DPWR $G_DGND
+ DATAIN 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 40us 0  
+ 60us 1  
+ 80us 0 
+ 100us 1  
X_U3         LEFT/RIGHT DATAIN N14529 $G_DPWR $G_DGND NAN2
X_U8         N14699 N14703 N15101 $G_DPWR $G_DGND NAN2
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
