* source LOWPASSFILTERS
R_R1         N00525 N00509  500 TC=0,0 
C_C1         N00509 0  7u  TC=0,0 
V_V1         N00525 0 DC 0Vdc AC 1Vac 
R_R_load         N00509 0  1k TC=0,0 
R_R_Load1         N00813 0  1k TC=0,0 
L_L1         N00827 N00813  2  
V_V2         N00827 0 DC 0Vdc AC 1Vac 
