* source PISO_SHIFTREGISTER
X_U6         N14770 N14787 N15351 $G_DPWR $G_DGND NAN2
X_U13         N15445 N17913 OUT M_UN0001 $G_DPWR $G_DGND DFF
U_d1         STIM(1,1)
+ $G_DPWR $G_DGND
+ D1 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 0  
+ 105us 0  
U_S/R         STIM(1,1)
+ $G_DPWR $G_DGND
+ SHIFT/WRITE 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 10us 0  
+ 50us 1  
+ 105us 0 
+ 130us 1  
X_U1         D1 N16087 N14745 $G_DPWR $G_DGND NAN2
X_U7         D3 N16087 N14807 $G_DPWR $G_DGND NAN2
X_U8         SHIFT/WRITE N15151 N14830 $G_DPWR $G_DGND NAN2
X_U2         SHIFT/WRITE N14968 N14756 $G_DPWR $G_DGND NAN2
X_U14         SHIFT/WRITE N16087  $G_DPWR $G_DGND INV
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N17913 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
X_U9         N14807 N14830 N15445 $G_DPWR $G_DGND NAN2
X_U3         N14745 N14756 N15265 $G_DPWR $G_DGND NAN2
U_d0         STIM(1,1)
+ $G_DPWR $G_DGND
+ D0 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
+ 105us 1  
U_d2         STIM(1,1)
+ $G_DPWR $G_DGND
+ D2 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
+ 105us 0  
X_U10         D0 N17913 N14968 M_UN0002 $G_DPWR $G_DGND DFF
X_U11         N15265 N17913 N15052 M_UN0003 $G_DPWR $G_DGND DFF
X_U4         D2 N16087 N14770 $G_DPWR $G_DGND NAN2
X_U12         N15351 N17913 N15151 M_UN0004 $G_DPWR $G_DGND DFF
X_U5         SHIFT/WRITE N15052 N14787 $G_DPWR $G_DGND NAN2
U_d3         STIM(1,1)
+ $G_DPWR $G_DGND
+ D3 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 0  
+ 105us 0  
