* source RESONANTFILTERS
R_R1         VIN1 VOUT1  500 TC=0,0 
L_L1         VOUT1 0  100m  
C_C1         VOUT1 0  10u  TC=0,0 
R_R_Load         VOUT1 0  1k TC=0,0 
V_V1         VIN1 0 DC 0Vdc AC 1Vac 
C_C2         VIN2 VOUT2  10u  TC=0,0 
L_L2         VIN2 VOUT2  100m  
R_R_Load1         VOUT2 0  1k TC=0,0 
V_V2         VIN2 0 DC 0Vdc AC 1Vac 
L_L3         VIN3 N01952  1  
C_C3         N01952 VOUT3  1u  TC=0,0 
R_R_Load2         VOUT3 0  1k TC=0,0 
V_V3         VIN3 0 DC 0Vdc AC 1Vac 
R_R2         VIN4 VOUT4  500 TC=0,0 
L_L4         VOUT4 N024941  100m  
C_C4         N024941 0  10u  TC=0,0 
R_R_Load3         VOUT4 0  1k TC=0,0 
V_V4         VIN4 0 DC 0Vdc AC 1Vac 
