* source SIPO_SHIFTREGISTER
X_U1         N18643 N14498 N14464 M_UN0001 $G_DPWR $G_DGND DFF
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14498 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
X_U2         N14464 N14498 N14472 M_UN0002 $G_DPWR $G_DGND DFF
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N18643 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
+ 30u 0  
+ 60u 1 
+ 80u 0  
+ 105u 1  
+ 125u 0  
+ 145u 1  
+ 155u 0  
+ 185u 1  
+ 205u 0  
+ 245u 1 
+ 275u 0 
+ 300u 1 
+ 345u 0 
+ 370u 1
X_U3         N14472 N14498 N14485 M_UN0003 $G_DPWR $G_DGND DFF
X_U4         N14485 N14498 N18667 M_UN0004 $G_DPWR $G_DGND DFF
