* source VOLTAGEMULTIPLIERS
C_C1         VIN1 N00126  1n  TC=0,0 
V_V1         VIN1 0  
+SIN 0 5 1k 0 0 0
D_D1         N00126 VOUT1 Dbreak 
D_D2         0 N00126 Dbreak 
C_C2         VOUT1 0  1n  TC=0,0 
V_V2         VIN2 N00863  
+SIN 0 5 1k 0 0 0
D_D3         VIN2 VOUT2 Dbreak 
C_C3         VOUT2 N00863  1n  TC=0,0 
C_C4         N00863 0  1n  TC=0,0 
D_D4         0 VIN2 Dbreak 
