* source ZENERDIODE
X_D4         N04633 VOUT2 awb1n2810a PARAMS:               
X_D1         0 VOUT1 awb1n2810a PARAMS:               
V_V2         VIN2 0  
+SIN 0 30 1K 0 0 0
R_R1         VIN1 VOUT1  1k TC=0,0 
V_V1         VIN1 0 30Vdc
X_D3         N04633 0 awb1n2810a PARAMS:               
R_R2         VIN2 VOUT2  1k TC=0,0 
