* source DECADE_COUNTER
X_U3A         Q1 N18978 N14547 N14547 Q2 M_UN0001 $G_DPWR $G_DGND 7473 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         Q2 N18978 N14547 N14547 Q3 M_UN0002 $G_DPWR $G_DGND 7473 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7         N19630 Q1 Q3 N19692 N18978 $G_DPWR $G_DGND NAN4
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N18935 IO_STM IO_LEVEL=0 
+ 0 0
+ +1n 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
X_U5         Q2 N19630  $G_DPWR $G_DGND INV
X_U2A         N18935 N18978 N14547 N14547 Q0 M_UN0003 $G_DPWR $G_DGND 7473
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N14547 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
X_U2B         Q0 N18978 N14547 N14547 Q1 M_UN0004 $G_DPWR $G_DGND 7473 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         Q0 N19692  $G_DPWR $G_DGND INV
