* source MOD10_COUNTER
X_U10B         NQ0 N30907 N30881 N30881 NQ1 M_UN0001 $G_DPWR $G_DGND 7473
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,1)
+ $G_DPWR $G_DGND
+ N30881 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
X_U18         NQ0 N50953  $G_DPWR $G_DGND INV
X_U12B         NQ2 N30907 N30881 N30881 NQ3 M_UN0002 $G_DPWR $G_DGND 7473
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         NQ1 N30907 N30881 N30881 NQ2 M_UN0003 $G_DPWR $G_DGND 7473
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14         NQ2 N50799  $G_DPWR $G_DGND INV
X_U17         N67603 N55246 N30907  $G_DPWR $G_DGND AND2
X_U16         N53685 N55246  $G_DPWR $G_DGND INV
X_U10A         N30867 N30907 N30881 N30881 NQ0 M_UN0004 $G_DPWR $G_DGND 7473
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N30867 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
X_U15         NQ3 N50799 NQ1 N50953 N53685 $G_DPWR $G_DGND AND4
U_DSTM6         STIM(1,1)
+ $G_DPWR $G_DGND
+ N67603 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
