* source RING_COUNTER
X_U11         Q3 N15158 N15183 Q0 M_UN0001 $G_DPWR $G_DGND DFFS
X_U19         Q0 N15158 N15183 Q1 M_UN0002 $G_DPWR $G_DGND DFFR
X_U20         Q1 N15158 N15183 Q2 M_UN0003 $G_DPWR $G_DGND DFFR
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N15158 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
X_U21         Q2 N15158 N15183 Q3 M_UN0004 $G_DPWR $G_DGND DFFR
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N15183 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
