* source RIPPLE_COUNTER
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N18707 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N18678 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
X_U1         N18678 N18707 Q0 M_UN0001 $G_DPWR $G_DGND TFF
X_U2         Q0 Q0 Q1 M_UN0002 $G_DPWR $G_DGND TFF
X_U3         Q1 Q1 Q2 M_UN0003 $G_DPWR $G_DGND TFF
X_U4         Q2 Q2 Q3 M_UN0004 $G_DPWR $G_DGND TFF
X_U5         Q3 Q3 Q4 M_UN0005 $G_DPWR $G_DGND TFF
X_U6         Q4 Q4 Q5 M_UN0006 $G_DPWR $G_DGND TFF
X_U7         Q5 Q5 Q6 M_UN0007 $G_DPWR $G_DGND TFF
X_U8         Q6 Q6 Q7 M_UN0008 $G_DPWR $G_DGND TFF
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N24868 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ N24858 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
X_U9         N24858 N24868 QQ0 M_UN0009 $G_DPWR $G_DGND TFF
X_U10         N24858 QQ0 QQ1 M_UN0010 $G_DPWR $G_DGND TFF
X_U11         N24858 QQ1 QQ2 M_UN0011 $G_DPWR $G_DGND TFF
X_U12         N24858 QQ2 QQ3 M_UN0012 $G_DPWR $G_DGND TFF
X_U13         N24858 QQ3 QQ4 M_UN0013 $G_DPWR $G_DGND TFF
X_U14         N24858 QQ4 QQ5 M_UN0014 $G_DPWR $G_DGND TFF
X_U15         N24858 QQ5 QQ6 M_UN0015 $G_DPWR $G_DGND TFF
X_U16         N24858 QQ6 QQ7 M_UN0016 $G_DPWR $G_DGND TFF
