* source RIPPLE_DOWN_COUNTER
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N33916 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ N33538 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
X_U9         N33538 N33916 QQ0 N33978 $G_DPWR $G_DGND TFF
X_U10         N33538 N33978 QQ1 N33982 $G_DPWR $G_DGND TFF
X_U11         N33538 N33982 QQ2 N33986 $G_DPWR $G_DGND TFF
X_U12         N33538 N33986 QQ3 N33626 $G_DPWR $G_DGND TFF
X_U13         N33538 N33626 QQ4 N33990 $G_DPWR $G_DGND TFF
X_U14         N33538 N33990 QQ5 N33994 $G_DPWR $G_DGND TFF
X_U15         N33538 N33994 QQ6 N33660 $G_DPWR $G_DGND TFF
X_U16         N33538 N33660 QQ7 M_UN0001 $G_DPWR $G_DGND TFF
