* source UP_DOWN_COUNTER
X_U1         N14474 N20202 N14474 Q0 M_UN0001 $G_DPWR $G_DGND JKFF
X_U2         N14505 N20202 N14505 Q1 N17910 $G_DPWR $G_DGND JKFF
X_U3         N14551 N20202 N14551 Q2 N18058 $G_DPWR $G_DGND JKFF
X_U4         N14650 N20202 N14650 Q3 N18211 $G_DPWR $G_DGND JKFF
X_U5         N15267 Q1 N15062  $G_DPWR $G_DGND AND2
X_U6         N15275 N17910 N15093  $G_DPWR $G_DGND AND2
X_U7         N15093 N15062 N14474 $G_DPWR $G_DGND OR2
X_U8         N15457 Q2 N15267  $G_DPWR $G_DGND AND2
X_U9         N15465 N18058 N15275  $G_DPWR $G_DGND AND2
X_U10         N15275 N15267 N14505 $G_DPWR $G_DGND OR2
X_U11         UP Q3 N15457  $G_DPWR $G_DGND AND2
X_U12         N18292 N18211 N15465  $G_DPWR $G_DGND AND2
X_U13         N15465 N15457 N14551 $G_DPWR $G_DGND OR2
X_U16         N18292 UP N14650 $G_DPWR $G_DGND OR2
X_U14         DOWN N19230 N18292  $G_DPWR $G_DGND AND2
X_U17         UP N19230  $G_DPWR $G_DGND INV
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N20202 IO_STM IO_LEVEL=0 
+ 0 0
+ +2u 1
+REPEAT FOREVER
+ +10u 0
+  +10u 1
+ ENDREPEAT
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ UP 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 10us 1  
+ 500us 0  
U_DSTM5         STIM(1,1)
+ $G_DPWR $G_DGND
+ DOWN 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 500us 1  
